US07064123B1
Sodium (0.268 g, 11.6 mmol) was dissolved in ethanol (25 mL) and the resulting solution was treated with benzyl mercaptan (1.87 mL, 15.9 mmol). The reaction mixture was cooled on ice and the 2,2-bis-methylsulfonyloxymethyl-malonic acid diethyl ester (2.00 g, 5.31 mmol) was added. The reaction mixture was stirred at room temperature for 16 hours and then heated at 55° C. for 1.5 hours. The resulting solution was cooled to room temperature and poured into ice water. The product was extracted with ethyl acetate. The extracts were washed with saturated aqueous sodium chloride and then dried over magnesium sulfate. The solvent was removed by rotary evaporation at reduced pressure and the residue was chromatographed on silica gel eluting with ethyl acetate/hexane to give 3-benzylsulfanyl-2-benzylsulfanylmethyl-propionic acid ethyl ester (1.589 g, 83% yield).

reactant | Sodium | 11.6 mmol, 0.268 g | [Na] | Na
reactant | benzyl mercaptan | 15.9 mmol, 1.87 mL | C(C1=CC=CC=C1)S | C7H8S
reactant | 2,2-bis-methylsulfonyloxymethyl-malonic acid diethyl ester | 5.31 mmol, 2.00 g | C(C)OC(C(C(=O)OCC)(COS(=O)(=O)C)COS(=O)(=O)C)=O | C11H20O10S2
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 3-benzylsulfanyl-2-benzylsulfanylmethyl-propionic acid ethyl ester | 1.589 g, 83% yield | C(C)OC(C(CSCC1=CC=CC=C1)CSCC1=CC=CC=C1)=O | C20H24O2S2
